US06800785B1
A solution of 2-butyl-5-(methoxymethoxy)-1-indanone (1.54 g, 6.2 mmol) in anhydrous N,N-dimethylformamide (DMF, 5 mL) was added to a suspension of sodium hydride (372 mg of a 60% dispersion in mineral oil, 9.3 mmol) in DMF (5 mL). The mixture was diluted with more DMF (2 mL, used to rinse in the indanone solution), placed under a nitrogen atmosphere, and stirred at room temperature for 25 minutes. 5-Bromo-1-pentene (1.47 mL, 12.4 mmol) was then added over 5 minutes, during which time the mixture clarified. After stirring at room temperature for an additional 5 hours, the mixture was quenched with saturated NH4Cl, dried over MgSO4, filtered through a pad of silica, and concentrated under vacuum to afford an oil. The crude product was purified by Biotage™ (Charlottesville, Va.) flash chromatography on a 40S (4.0×7.0 cm) silica gel column, eluting with 19:1 hexanes-EtOAc. The product-containing fractions were evaporated under vacuum to afford 2-butyl-5-(methoxymethoxy)-2-(4-pentenyl)-1-indanone as an oil.

reactant | 2-butyl-5-(methoxymethoxy)-1-indanone | 6.2 mmol, 1.54 g | C(CCC)C1C(C2=CC=C(C=C2C1)OCOC)=O | C15H20O3
reactant | sodium hydride | [H-].[Na+]
reactant | 5-Bromo-1-pentene | 12.4 mmol, 1.47 mL | BrCCCC=C | C5H9Br
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | DMF | 5 mL | CN(C=O)C | C3H7NO
product | 2-butyl-5-(methoxymethoxy)-2-(4-pentenyl)-1-indanone | C(CCC)C1(C(C2=CC=C(C=C2C1)OCOC)=O)CCCC=C | C20H28O3
